US07495016B2
12.5 Preparation of 3-[4-(3-hydroxyphenyl)-2-oxo-pyrrolidin-1-yl]benzamide according to General Procedure IX
To a solution of 3-[4-(3-benzyloxyphenyl)-2-oxo-pyrrolidin-1-yl]benzamide (1.2 g) in 50 mL EtOH was added 10% Pd/C (100 mg). The resulting mixture was stirred under H2 for 4 h, filtered, and concentrated under reduced pressure to give 0.8 g of crude product.

reactant | 3-[4-(3-benzyloxyphenyl)-2-oxo-pyrrolidin-1-yl]benzamide | 1.2 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1CC(N(C1)C=1C=C(C(=O)N)C=CC1)=O | C24H22N2O3
solvent | EtOH | 50 mL | CCO | C2H6O
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | 3-[4-(3-hydroxyphenyl)-2-oxo-pyrrolidin-1-yl]benzamide | 0.8 g | OC=1C=C(C=CC1)C1CC(N(C1)C=1C=C(C(=O)N)C=CC1)=O | C17H16N2O3
